US07713994B2
To a suspension of 1-(4-nitrophenyl)piperidine-4-carboxylic acid (0.75 g, 3.0 mmol) in dichloromethane (15 mL) is added oxalyl chloride (0.32 mL, 3.6 mmol) and then one drop of N,N-dimethylformamide. The reaction mixture is heated in a 60° C. oil bath under a nitrogen atmosphere for 30 minutes, concentrated under reduced pressure to provide 1-(4-nitrophenyl)piperidine-4-carboxylic acid chloride hydrochloride. N,N-dimethylethylenediamine (1.0 mmol) is added neat to 1-(4-nitrophenyl)piperidine-4-carboxylic acid chloride hydrochloride (0.15 g, 0.5 mmol). The resulting solid is purified by reverse-phase HPLC to provide 1-(4-nitro-phenyl)-piperidine-4-carboxylic acid (2-dimethylamino-ethyl)-amide trifluoroacetate.

reactant | 1-(4-nitrophenyl)piperidine-4-carboxylic acid | 3.0 mmol, 0.75 g | [N+](=O)([O-])C1=CC=C(C=C1)N1CCC(CC1)C(=O)O | C12H14N2O4
reactant | oxalyl chloride | 3.6 mmol, 0.32 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
solvent | dichloromethane | 15 mL | ClCCl | CH2Cl2
catalyst | N,N-dimethylformamide | one drop | CN(C=O)C | C3H7NO
product | 1-(4-nitrophenyl)piperidine-4-carboxylic acid chloride hydrochloride | Cl.[N+](=O)([O-])C1=CC=C(C=C1)N1CCC(CC1)C(=O)Cl | InChI=1S/C12H13ClN2O3.ClH/c13-12(16)9-5-7-14(8-6-9)10-1-3-11(4-2-10)15(17)18;/h1-4,9H,5-8H2;1H
